US04973592
To a mixture of N-tritylethylenediamin (3.66 g) and sodium carbonate (9.2 g) in n-butanol (20 ml), a solution of 1-phenyl-1-cyclohexyl-3-chloro-1-propanol (3 g) in butanol (10 ml) was added. The mixture was refluxed overnight, then cooled, diluted with water and extracted with ethyl acetate. The solvent was dried and evaporated. The residue was purified by column chromatography (methylene chloride, methanol, ammonia 99:1:0.1) to afford 3.8 g of 1-phenyl-1-cyclohexyl-3-(2-tritylaminoethyl)amino-1-propanol. M.p. 198° C.

reactant | N-tritylethylenediamin | 3.66 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCN | C21H22N2
reactant | sodium carbonate | 9.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-phenyl-1-cyclohexyl-3-chloro-1-propanol | 3 g | C1(=CC=CC=C1)C(CCCl)(O)C1CCCCC1 | C15H21ClO
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
solvent | butanol | 10 ml | C(CCC)O | C4H10O
solvent | water | O | H2O
product | 1-phenyl-1-cyclohexyl-3-(2-tritylaminoethyl)amino-1-propanol | 3.8 g | C1(=CC=CC=C1)C(CCNCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(O)C1CCCCC1 | C36H42N2O
